US05616610
a) (R)-8-Bromo-3-(N-isopropylamino)-5-methoxy-3,4-dihydro-2H -1-benzopyran
(R)-3-(N-Isopropylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran (4.02 g, 18.2 mmol) and anhydrous sodium acetate were dissolved in acetic acid (80 mL). To the stirred mixture was bromine (0.93 mL, 18.2 mmol) dissolved in acetic acid (40 mL) added dropwise under 1.5 h. The solvent was removed in vacuo, taken into a 2M NaOH solution and extracted twice with diethyl ether. The combined ether portions were treated with brine, dried (Na2SO4), filtered, and the solvent was removed in vacuo to give the crude residue. The hydrochloride salt was made by dissolving the pure base in diethyl ether and adding an excess of an ethereal HCl solution to give a white solid. The salt was recrystallized twice from ethanol/diethyl ether to give 3.8 g (62% yield) Mp: 257°-8° C. [α]21D =-97.7° (C=0.1 CHCl3). The free base was made from the hydrochloride salt to give an oil. GC-MS (70 eV) M=301 (100%).

reactant | (R)-3-(N-Isopropylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran | 18.2 mmol, 4.02 g | C(C)(C)N[C@H]1COC2=C(C1)C(=CC=C2)OC | C13H19NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | bromine | 18.2 mmol, 0.93 mL | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-8-Bromo-3-(N-isopropylamino)-5-methoxy-3,4-dihydro-2H -1-benzopyran | 62% yield | BrC1=CC=C(C=2C[C@H](COC21)NC(C)C)OC | C13H18BrNO2
